US04808750
To a stirred solution of 2-fluorophenol (22.4 g, 0.2 mole) in methylene chloride (250 ml) which was cooled to ~3° C. in an ice bath, was added, all at once, bromine (31.97 g, 0.2 mole). The resulting solution was stirred at ice bath temperature for two hours and then at room temperature for 1 hour. The mixture was poured into water (600 ml) containing excess sodium bisulfite. The organic phase was separated and the aqueous phase was washed with additional methylene chloride (200 ml). The combined organic extracts were washed with saturated sodium bicarbonate, dried (MgSO4) and the solvent evaporated to give the desired 2-fluoro-4-bromophenol as a colorless oil (34.5 g, 90%). The NMR (CDCl3) was consistent with the assigned structure. The gc of this material showed that it contained only a trace of the 2,6-isomer. This material was used directly in the following step without additional purification.

reactant | 2-fluorophenol | 0.2 mole, 22.4 g | FC1=C(C=CC=C1)O | C6H5FO
reactant | bromine | 0.2 mole, 31.97 g | BrBr | Br2
reactant | water | 600 ml | O | H2O
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 2-fluoro-4-bromophenol | 34.5 g, 90% | FC1=C(C=CC(=C1)Br)O | C6H4BrFO
